US08084448B2
D. 3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-isopropyl-N-methylpropionamide
To a solution of 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid (0.10 g, 0.2 mmol), EDCl (0.38 g, 0.20 mmol) and HOAt (0.027 g, 0.20 mmol) in DMF (1 mL) is added N-isopropyl-N-methylamine (0.15 g, 0.2 mmol). The mixture is stirred at RT for 18 h, then poured into water. The mixture is extracted into EtOAc and the organic phase washed with water (3×) and sat. NaCl (1×). The organic solution is dried over Na2SO4 and the solvent removed under reduced pressure to afford the title compound. This is used directly in the next step.

reactant | 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid | 0.2 mmol, 0.10 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCC(=O)O | C23H30N2O6SSi
reactant | EDCl | 0.20 mmol, 0.38 g | CCN=C=NCCCN(C)C.Cl
reactant | HOAt | 0.20 mmol, 0.027 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-isopropyl-N-methylamine | 0.2 mmol, 0.15 g | C(C)(C)NC | C4H11N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-isopropyl-N-methylpropionamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCC(=O)N(C)C(C)C | C27H39N3O5SSi
